US07951824B2
5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 4-Methoxymethyl-thiazol-2-ylamine instead of 3-Chloroaniline to yield the final compound as a off-white solid, MS (ISP): m/e=359.1 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | 4-Methoxymethyl-thiazol-2-ylamine | COCC=1N=C(SC1)N | C5H8N2OS
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid (4-methoxymethyl-thiazol-2-yl)-amide | COCC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C17H15FN4O2S
